US07491821B2
To a suspension of ethyl 2-amino-acetate (1.0 g, 7.16 mmol) in anhydrous CH2Cl2 (5 ml) was added TEA (1.82 g, 17.96 mmol). The reaction mixture was cooled in an ice bath, and a solution of benzoyl chloride (1.0 g, 7.17 mmol) in CH2Cl2 (2 ml) was added dropwise. After addition was completed, stirring was continued at RT for two more hours. The reaction mixture was washed with water, dried with MgSO4, filtered, and concentrated. Column chromatography (silica, 30% EtOAc in hexanes) gave benzoylaminoacetic acid ethyl ester (intermediate XXa, 1.24 g) as a white solid.

reactant | ethyl 2-amino-acetate | 7.16 mmol, 1.0 g | NCC(=O)OCC | C4H9NO2
reactant | benzoyl chloride | 7.17 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | benzoylaminoacetic acid ethyl ester | 1.24 g | C(C)OC(CNC(C1=CC=CC=C1)=O)=O | C11H13NO3
